US08076489B2
[4-(2-Amino-2-methyl-propyl)-phenyl]-dimethyl-amine (210 mg) and Methanesulfonic acid (S)-2-(5-tert-butoxy-2-isopropoxy-benzothiazol-7-yl)-2-hydroxy-ethyl ester (120 mg) are dissolved in toluene (2 ml). The reaction mixture is heated to 80° C. for 20 hours. The solvent is removed by vacuo to give (S)-1-(5-tert-Butoxy-2-isopropoxy-benzothiazol-7-yl)-2-[2-(4-dimethylamino-phenyl)-1,1-dimethyl-ethylamino]-ethanol. MS (ES+) m/e. 500

reactant | [4-(2-Amino-2-methyl-propyl)-phenyl]-dimethyl-amine | 210 mg | NC(CC1=CC=C(C=C1)N(C)C)(C)C | C12H20N2
reactant | Methanesulfonic acid (S)-2-(5-tert-butoxy-2-isopropoxy-benzothiazol-7-yl)-2-hydroxy-ethyl ester | 120 mg | C(C)(C)(C)OC=1C=C(C2=C(N=C(S2)OC(C)C)C1)[C@@H](COS(=O)(=O)C)O | C17H25NO6S2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-1-(5-tert-Butoxy-2-isopropoxy-benzothiazol-7-yl)-2-[2-(4-dimethylamino-phenyl)-1,1-dimethyl-ethylamino]-ethanol | C(C)(C)(C)OC=1C=C(C2=C(N=C(S2)OC(C)C)C1)[C@@H](CNC(CC1=CC=C(C=C1)N(C)C)(C)C)O | C28H41N3O3S
